US09314468B2
Preparation of N1-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-N4-(pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)butane-1,4-diamine hydrochloride (AB)
A solution of N-(4-aminobutyl)-N-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-5,6,7,8-tetrahydro-quinolin-8-amine tetrahydrochloride, Z, (0.20 g, 0.38 mmol) in 1,2-dichloroethane (10 mL) was treated with Hünigs base (0.08 mL, 0.42 mmol), 2-pyridine carboxaldehyde (0.04 mL, 0.42 mmol), sodium triacetoxyborohydride (0.12 g, 0.57 mmol) and a catalytic amount of acetic acid (2 drops). The resulting mixture was warmed to 65° C. and stirred for 18 h. The reaction mixture was cooled to room temperature. A saturated aqueous solution of sodium bicarbonate was added. The product was extracted with dichloromethane. The combined organic layers were washed with brine, dried over potassium carbonate, filtered and concentrated in vacuo. The crude product was purified by silica gel chromatography (0-15% methanol/CH2Cl2) to afford 0.08 g (45% yield) of the desired product AB: 1H NMR (400 MHz, CDCl3) δ 8.54-8.34 (m, 2H), 8.15 (bs, 1H), 7.71 (d, J=7.6 Hz, 1H), 7.60-7.52 (m, 1H), 7.45 (t, J=7.2 Hz, 2H), 7.39-7.32 (m, 1H), 7.32-7.22 (m, 2H), 7.14-7.04 (m, 1H), 7.02-6.84 (m, 1H), 4.15-4.04 (m, 1H), 3.92-3.70 (m, 4H), 2.82-2.50 (m, 6H), 2.15-2.04 (m, 1H), 2.04-1.82 (m, 1H), 1.82-1.78 (m, 1H), 1.70-1.40 (m, 5H); ESI+ MS: m/z (rel intensity) 468.3 (100, [M+H]+).

reactant | N-(4-aminobutyl)-N-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-5,6,7,8-tetrahydro-quinolin-8-amine tetrahydrochloride | Cl.Cl.Cl.Cl.NCCCCN(C1CCCC=2C=CC=NC12)CC=1N=NN(C1)C1=CC=CC=C1
reactant | Hünigs base | 0.42 mmol, 0.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-pyridine carboxaldehyde | 0.42 mmol, 0.04 mL | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 0.57 mmol, 0.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | N1-((1-phenyl-1H-1,2,3-triazol-4-yl)methyl)-N4-(pyridin-2-ylmethyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)butane-1,4-diamine hydrochloride | 0.08 g, 45% yield | Cl.C1(=CC=CC=C1)N1N=NC(=C1)CN(CCCCNCC1=NC=CC=C1)C1CCCC=2C=CC=NC12 | InChI=1S/C28H33N7.ClH/c1-2-13-26(14-3-1)35-22-25(32-33-35)21-34(27-15-8-10-23-11-9-18-31-28(23)27)19-7-6-16-29-20-24-12-4-5-17-30-24;/h1-5,9,11-14,17-18,22,27,29H,6-8,10,15-16,19-21H2;1H
